US07300931B2
Synthesis of Compound 5: N-(3-fluorophenyl)-4-biphenylacetamide, KXI-308.
Thionyl chloride (0.38 ml, 5.0 mmole) was added to an ice water cooled solution of 4-Biphenylacetic acid (0.2 g, 0.9 mmole) in 5 ml dichloromethane, solution allowed to warm to room temperature then heated under reflux for 1 hr, the solvent and excess thionyl chloride was evaporated under vacuum, the oil formed was redissolved in 5 ml dichloromethane followed by addition of 4-Dimethylaminopyridine (0.12 gm, 1.0 mmole) and 3-Fluoroaniline (0.11 gm, 1.0 mmole), stirred at room temperature over night, then the reaction mixture was diluted with 10 ml dichloromethane and 20 ml water, the organic layer washed with 1 N HCl, saturated NaHCO3 solution, and saturated NaCl solution, dried using Na2SO4 and evaporated dryness (0.2 gm, 72%), H1-NMR INOVA-500 (CDCl3) δ 3.805 (s, 2H), 6.815 (t, J=8.5 Hz, 1H), 7.068 (d, J=8.0 Hz, 1H), 7.218-7.284 (m, 2H), 7.380-7.499 (m, 6H) 7.620-7.664 (m, 4H). MS (m/z) 306.2 (M+H)+.

reactant | Thionyl chloride | 5.0 mmole, 0.38 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-Biphenylacetic acid | 0.9 mmole, 0.2 g | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | 3-Fluoroaniline | 1.0 mmole, 0.11 gm | FC=1C=C(N)C=CC1 | C6H6FN
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | 4-Dimethylaminopyridine | 1.0 mmole, 0.12 gm | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | 20 ml | O | H2O
product | N-(3-fluorophenyl)-4-biphenylacetamide | FC=1C=C(C=CC1)NC(CC1=CC=C(C=C1)C1=CC=CC=C1)=O | C20H16FNO
